US09233985B2
A stirred mixture of racemic 2-oxo-2-phenylethyl (3R,4S)-4-allyl-3-azidopyrrolidine-3-carboxylate hydrochloride (228 mg, 0.650 mmol) and 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (258 mg, 0.826 mmol) in methylene chloride (6 mL) was treated with Et3N (0.272 mL, 1.95 mmol) followed by N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (HATU, 321 mg, 0.845 mmol), and the resulting nearly homogeneous mixture was stirred at room temperature. After 1 h, the reaction was diluted with methylene chloride (20 mL), washed successively with water (20 mL), 1 N aqueous HCl (20 mL), saturated aqueous NaHCO3 (20 mL) and saturated aqueous sodium chloride (10 mL), dried over Na2SO4, and concentrated. Purification by silica gel chromatography (40 g column, 15-25% ethyl acetate in hexanes) gave tert-butyl 3-({(3R,4S)-4-allyl-3-azido-3-[(2-oxo-2-phenylethoxy)carbonyl]pyrrolidin-1-yl}carbonyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate (214 mg, 54%) as a pale amber film which was used without further purification. LC-MS ESI+ MS found for C31H34ClN5O6 m/z 608.2 (M+H), 630.3 (M+Na); ESI− MS m/z 606.3 (M−H).

reactant | racemic 2-oxo-2-phenylethyl (3R,4S)-4-allyl-3-azidopyrrolidine-3-carboxylate hydrochloride | 0.650 mmol, 228 mg | Cl.C(C=C)[C@@H]1[C@@](CNC1)(C(=O)OCC(C1=CC=CC=C1)=O)N=[N+]=[N-]
reactant | 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.826 mmol, 258 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1C(=O)O)Cl | C15H18ClNO4
reactant | Et3N | 1.95 mmol, 0.272 mL | CCN(CC)CC | C6H15N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.845 mmol, 321 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-({(3R,4S)-4-allyl-3-azido-3-[(2-oxo-2-phenylethoxy)carbonyl]pyrrolidin-1-yl}carbonyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate | 214 mg, 54% | C(C=C)[C@@H]1[C@@](CN(C1)C(=O)C1N(CC2=CC(=CC=C2C1)Cl)C(=O)OC(C)(C)C)(C(=O)OCC(C1=CC=CC=C1)=O)N=[N+]=[N-] | C31H34ClN5O6
